US06284785B1
(RS)-1-(4-Chloro-benzenesulfonyl)-2-(4-methoxyl-phenyl)-pyrrolidine
The title compound, white solid, m.p. 133° C. and MS: m/e=352 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-methoxy-phenyl)-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (RS)-2-(4-methoxy-phenyl)-pyrrolidine | COC1=CC=C(C=C1)C1NCCC1 | C11H15NO
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-1-(4-Chloro-benzenesulfonyl)-2-(4-methoxyl-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=C(C=C1)OC | C17H18ClNO3S
